US08703940B2
Preparation of 2-amino-3,6-dihydro-4-dimethylamino-6-methyl-1,3,5-triazine
A 4 L two neck flask charged with 662 g (4 mol) metformin HCl and 1600 mL MeOH was stirred with a magnetic bar at 750 rpm at room temperature with a water bath. To this suspension was added sodium hydroxide 160 g (4 mol) in 200 mL water through one dropping funnel. At the same time acetaldehyde 226 mL (4 mol) in 400 mL of MeOH in another funnel was added to the mixture. The addition of NaOH solution finished in 70 minutes whereas the addition of acetaldehyde finished in 100 minutes. Then, the reaction mixture was filtered through celite to remove the sodium chloride. The solution was concentrated to give a white solid that was extracted with 1.2 L of hot ethanol to give a suspension. After filtration, the ethanol solution was concentrated to give a pale yellow solid, 520 g, yield is 84%.

reactant | metformin HCl | 4 mol, 662 g | CN(C)C(=N)N=C(N)N.Cl
reactant | sodium hydroxide | 4 mol, 160 g | [OH-].[Na+]
reactant | acetaldehyde | 4 mol, 226 mL | C(C)=O | C2H4O
solvent | water | 200 mL | O | H2O
solvent | MeOH | 400 mL | CO | CH4O
solvent | MeOH | 1600 mL | CO | CH4O
product | 2-amino-3,6-dihydro-4-dimethylamino-6-methyl-1,3,5-triazine | yield is 84% | NC1=NC(N=C(N1)N(C)C)C | C6H13N5
